US09326987B2
N-{2-Chloro-5-[4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3,4-oxadiazol-2-yl)-1H-indazol-6-yl]-3-pyridinyl}methanesulfonamide
N-(2-Chloro-5-{4-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]-1-[(4-methylphenyl)sulfonyl]-1H-indazol-6-yl}-3-pyridinyl)methanesulfonamide (25 mg, 0.042 mmol) and 1-(1-methylethyl)piperazine (500 mg, 3.90 mmol) were placed a vial and heated in a microwave at 90° C. for 15 mins. The 1-(1-methylethyl)piperazine was blown off under a stream of nitrogen and the residue suspended in isopropanol (2 ml) and 2M sodium hydroxide (1 ml) added. The mixture was stirred at room temperature for 2 h. The solvent was blown off under a stream of nitrogen and the residue purified by Mass Directed Automated Preparative HPLC (Method B) to give the title compound as a pale yellow gum (4 mg).

reactant | N-(2-Chloro-5-{4-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]-1-[(4-methylphenyl)sulfonyl]-1H-indazol-6-yl}-3-pyridinyl)methanesulfonamide | 0.042 mmol, 25 mg | ClC1=NC=C(C=C1NS(=O)(=O)C)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C=1OC(=NN1)CCl | C23H18Cl2N6O5S2
reactant | 1-(1-methylethyl)piperazine | 3.90 mmol, 500 mg | CC(C)N1CCNCC1 | C7H16N2
reactant | sodium hydroxide | 2M, 1 ml | [OH-].[Na+]
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
product | N-{2-Chloro-5-[4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3,4-oxadiazol-2-yl)-1H-indazol-6-yl]-3-pyridinyl}methanesulfonamide | 4 mg | ClC1=NC=C(C=C1NS(=O)(=O)C)C1=CC(=C2C=NNC2=C1)C=1OC(=NN1)CN1CCN(CC1)C(C)C | C23H27ClN8O3S
